Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
metformin
 
Attending: ___.
 
Chief Complaint:
elective admission for NPH evaluation
 
Major Surgical or Invasive Procedure:
attempted lumbar puncture

 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with a history 
of aortic stenosis s/p valve replacement, hypertension, 
diabetes, recurrent UTIs who presents with persistent difficulty 
walking and memory for NPH evaluation. She has had impaired 
balance for years, worsening ___ years ago after aortic valve 
replacement, and using a walker since. (Prior to this, she was 
walking with a cane). She does fall occasionally, but according 
to her family, she "slides along the wall" and "falls 
gracefully". She does not fall towards a particular side. Her 
walking is also impaired by her severe arthritic knees.  Also, 
she states that her feet are "kind of numb." Her family reports 
that her long term memory (i.e. events from ___ years ago) is 
much better than her short term memory (i.e. what she had for 
breakfast). For the last ___ years, she has had urinary 
incontinence, getting worse over the last ___ years. Her family 
describes it as her "now knowing when she needs to go". She has 
urinary incontinence about ___ times per day but can sometimes 
sense when she needs to go to the bathroom and is able to go 
with assistance. She had severalepisodes of bowel incontinence, 
but has not had any since starting metamucil. Her last UTI was 
___ months ago, whereas she used to have one every ___ months 
(she is taking cranberry pills daily). 

Ms. ___ was evaluated in neurology clinic by Dr. ___ 
was concerned for normal pressure hydrocephalus based on wide 
based gait, memory difficulty, urinary incontinence, and 
enlarged ventricles and referred her for a large volume lumbar 
puncture to assess whether or not she will benefit from a VP 
shunt.

On neuro ROS, the patient endorses gait difficulty as above, and 
right shoulder pain due to frozen shoulder. Denies headache, 
loss of vision, blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech.  Denies focal 
weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or retention. 

On general review of systems, the patient lost 20 lbs after her 
aortic valve operation ___ years ago and has gained 10 lbs back. 
Denies recent fever or chills.  No night sweats. Denies cough, 
shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
frozen shoulder - right shoulder pain and limited movement, has 
seen orthopedics and has been doing exercises
hypertension - ___ years, well maintained on medication according 
to family
diabetes - well controlled according to family on insulin 
depression
aortic stenosis status post valve replacement - operation ___ 
years ago
hyperlipidemia
obesity
severe knee osteoarthritis - ___ years, considered operation over 
the last ___ years, but did not proceed with an operation due to 
her heart condition
hypergammaglobulinemia
recurring urinary tract infections/urine incontinence - ___ 
years, currently not on medication, but no UTI recently (last 
___ months)
 
Social History:
___
Family History:
Brother died of pancreatic cancer. Parents died of "old age."
 
Physical Exam:
Physical Exam on Admission:

Vitals: T: 98.1   P: 70  R: 20  BP: 128/58    SaO2: 100/RA  
General: NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx 
Neck: Supple. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally. 
Skin: no rashes or lesions noted.

Neurologic: 

-Mental Status: MOCA score ___, she got ___ for naming, ___ for 
attention, ___ for repetition, ___ for abstraction, ___ for 
orientation (see attached). Alert, oriented to ___ but not 
___ (says she is in ___, not oriented to date. Was told 3 
times in 1 hour which hospital she was at, but continued to say 
___.  Attentive, able to name ___ backward with much 
prompting.  Language is fluent with intact repetition and 
comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects (thumb, baby finger, lapel, hammer, handle, sleeve).  
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect. 

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Funduscopic 
exam attempted but unable to visualize due to patient movement.
III, IV, VI: EOMI with end gaze horizontal nystagmus, ___ beats, 
fatigues.   
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis 
noted.

  Delt Bic Tri WrE FFl FE IO   IP Quad Ham TA ___ 
L  5    ___   ___-  5-   ___     5     4+        
 
R  5- * ___   ___-  5-   5-  5- 5     5     5-       

* limited by pain
-Sensory: Propioception diminshed at halluxes bilaterally, 
intact at ankles. Diminished pinprick to mid-shin bilaterally, 
and mid-forearm bilaterally. No extinction to DSS.

-DTRs: 
  Bi Tri ___ Pat Ach 
L  1  1    1    1   0 
R  2  1    1    2   1
Plantar response was extensor on the right and flexor on the 
left.

-Coordination: No intention tremor, no dysdiadochokinesia noted 
on RAMs or fast finger movements. No dysmetria on FNF 
bilaterally but slight dysmetria on foot tapping bilaterally.

-Gait: Wide-based, requiring a walker for balance.  Not magnetic 
gait. Romberg not tested since she could not balance without 
walker.

Physical Exam on Discharge:
unchanged
 
Pertinent Results:
___ 01:30PM   WBC-6.5 RBC-4.83 HGB-13.7 HCT-40.4 MCV-84 
MCH-28.4 MCHC-34.0 RDW-13.5
___ 01:30PM   PLT COUNT-234
___ 01:30PM   ___ PTT-33.4 ___
___ 01:30PM   GLUCOSE-73 UREA N-15 CREAT-0.5 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-30 ANION GAP-15
___ 01:30PM   CALCIUM-9.7 PHOSPHATE-3.7 MAGNESIUM-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ right-handed woman with a history 
of aortic stenosis s/p valve replacement, hypertension, 
diabetes, recurrent UTIs who presents with persistent difficulty 
walking and memory for NPH evaluation. She has had impaired 
balance for years, worsening ___ years ago after aortic valve 
replacement, and using a walker since. (Prior to this, she was 
walking with a cane). She does fall occasionally, but according 
to her family, she "slides along the wall" and "falls 
gracefully". She does not fall towards a particular side. Her 
walking is also impaired by her severe arthritic knees.  Also, 
she states that her feet are "kind of numb." Her family reports 
short term memory difficulty. For the last ___ years, she has had 
urinary incontinence, getting worse over the last ___ years. Ms. 
___ was evaluated in neurology clinic by Dr. ___ was 
concerned for normal pressure hydrocephalus based on wide based 
gait, memory difficulty, urinary incontinence, and enlarged 
ventricles and referred her for a large volume lumbar puncture 
to assess whether or not she will benefit from a VP shunt.

On exam, her memory is quite impaired, she does not know the 
year, the day, or who the president is.  Naming, repetition is 
intact and attention is okay.  She is quite animated, not flat 
affect, and voice is of normal volume.  Cranial nerves are 
intact.  Motor strength is quite good as well.  Her gait is wide 
based, she take small steps, but balances well with the walker.  
Gait is not magnetic.  Her gait disorder is likely 
multifactorial, including poor position sense, decreased 
sensation in her feet, arthritis, and obesity as contributors.  
She does have enlarged ventricles, but also global atrophy, so 
our suspicion for NPH as the cause of her gait disorder is not 
high but reasonable to check for since lumbar puncture is a low 
risk procedure.

Timed walking trial x4 prior to lumbar puncture: average 30 
seconds.  Attempted a lumbar puncture.  Patient very difficult 
to position, unable to tolerate lidocaine needle well and 
completely unable to tolerate spinal needle.  Requested the 
procedure be aborted, so it was.  Recommended to family that she 
can have LP in ___, but they opted to go home and reschedule.

TRANSITIONS OF CARE:
- family will consider LP in ___ in the future
- will follow up with Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amaryl *NF* (glimepiride) 4 mg Oral BID 
with mneals 
2. Lisinopril 2.5 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Lantus *NF* (insulin glargine) 10 unit Subcutaneous at lunch 
5. Furosemide 20 mg PO DAILY 
6. Fish Oil (Omega 3) ___ mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. Psyllium Wafer 1 WAF PO BID 
10. Atorvastatin 10 mg PO DAILY 
11. Fluoxetine 10 mg PO DAILY 
12. Cyanocobalamin 1500 mcg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Amaryl *NF* (glimepiride) 4 mg Oral BID 
2. Ascorbic Acid ___ mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Atorvastatin 10 mg PO DAILY 
5. Cyanocobalamin 1500 mcg PO DAILY 
6. Fish Oil (Omega 3) ___ mg PO DAILY 
7. Fluoxetine 10 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 
9. Lantus *NF* (insulin glargine) 10 unit Subcutaneous at lunch 
10. Lisinopril 2.5 mg PO DAILY 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Psyllium Wafer 1 WAF PO BID 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gait difficulty

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for a normal pressure hydrocephalus 
evaluation.  Unfortunately, you were not able to tolerate a 
lumbar puncture. We offered to have the lumbar puncture in 
radiology tomorrow or the day after, but you and your family 
preferred to reschedule this for another time.

We have not made any changes to your medications.

Please speak with your neurologist to discuss how to proceed 
further and schedule a follow up appointment as needed.

It was a pleasure taking care of you, we wish you all the best 
 
Followup Instructions:
___